US05354866
To a solution of the isocyanate derived from Valine methyl ester (17.9 mmol) dissolved in toluene was added 6-methyl-pyridine-2-methanol (2.42 g, 1.1 equivalent). The solution was heated at reflux for 2 hours. After concentration in vacuo and purifiction by silica gel column chromatography, (6-methylpyridin-2-yl)methoxycarbonyl-Valine methyl ester (2.8 g) was obtained. Hydrolysis of the methyl ester using aqueous lithium hydroxide provide the title compound upon recrystallization from hot ethyl acetate.

reactant | isocyanate | [N-]=C=O
reactant | Valine methyl ester | 17.9 mmol | COC([C@@H](N)C(C)C)=O | C6H13NO2
reactant | 6-methyl-pyridine-2-methanol | 2.42 g, 1.1 equivalent | CC1=CC=CC(=N1)CO | C7H9NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (6-methylpyridin-2-yl)methoxycarbonyl-Valine methyl ester | 2.8 g | COC([C@@H](NC(=O)OCC1=NC(=CC=C1)C)C(C)C)=O | C14H20N2O4
